US04084955
A solution of 9.7 g. (0.025 mole) ethyl 3,4,5-tribromopyrazole-1-acetate in 125 ml. dry ether was mixed with a suspension of 1.9 g. (0.05 mole) lithium aluminum hydride in 50 ml. dry ether. The reaction mixture was heated at the reflux temperature for two hrs. and then cooled. Ethyl acetate (5 ml.) and then water (30 ml.) were added and after settling the ether portion was decanted. The ether solution was washed with two 40-ml. portions of water and dried over anhydrous sodium sulfate. After removing the ether by evaporation, the oily residue was treated with decolorizing charcoal and crystallized from a mixture of ethyl ether and petroleum ether (boiling at the temperature range 30° C. to 60° C.). There was thus obtained 6.5 gms. (75% yield) of 3,4-dibromopyrazole-1-ethanol having a melting point of 64° to 66° C.

reactant | ethyl 3,4,5-tribromopyrazole-1-acetate | 0.025 mole | BrC1=NN(C(=C1Br)Br)CC(=O)OCC | C7H7Br3N2O2
reactant | lithium aluminum hydride | 0.05 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | water | 30 ml | O | H2O
product | 3,4-dibromopyrazole-1-ethanol | 75% yield | BrC1=NN(C=C1Br)CCO | C5H6Br2N2O
